US04125729
Methyl α-(p-tert-butylphenoxy)-α-[p-(4-chlorophenoxy)phenyl]acetate
To a solution of 3.75 g of 4-tert-butylphenol and 1.19 g of sodium methoxide and a few crystals of potassium iodide in 40 ml of methanol is added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. The mixture is refluxed overnight. On cooling, a white solid separates. The entire mixture is poured into 100 ml of water and extracted with two 100 portions of ether. The combined extracts are washed with 100 ml of 5% NaOH, 100 ml of water and saturated brine, and dried over MgSO4. Evaporation of the solvent affords a white solid, which is crystallized from hexane to give the product as fine white needles, mp 118°-120° C.

reactant | 4-tert-butylphenol | 3.75 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | Methyl α-(p-tert-butylphenoxy)-α-[p-(4-chlorophenoxy)phenyl]acetate | C(C)(C)(C)C1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)Cl)C=C1 | C25H25ClO4
